US07951815B2
1,3-(S)-dibenzyl-8-butyryl-1,4,8-triazaspiro[4,5]decan-2-one (272 mg, 10.7 mmol) was dissolved in ethyl methyl ketone (2.2 mL), and water (7 μL) and TMSCl (93 μL) were added and the mixture was stirred overnight. The solid matter was isolated by filtration, washed with ether, and dried in vacuo. The product 1,3-(S)-dibenzyl-8-butyryl-1,4,8-triazaspiro[4,5]decan-2-one hydrochloride was obtained in a yield of 281 mg (95%).

reactant | 1,3-(S)-dibenzyl-8-butyryl-1,4,8-triazaspiro[4,5]decan-2-one | 10.7 mmol, 272 mg | C(C1=CC=CC=C1)N1C([C@@H](NC12CCN(CC2)C(CCC)=O)CC2=CC=CC=C2)=O | C25H31N3O2
reactant | water | 7 μL | O | H2O
reactant | TMSCl | 93 μL | C[Si](C)(C)Cl | C3H9ClSi
solvent | ethyl methyl ketone | 2.2 mL | CC(=O)CC | C4H8O
product | 1,3-(S)-dibenzyl-8-butyryl-1,4,8-triazaspiro[4,5]decan-2-one hydrochloride | Cl.C(C1=CC=CC=C1)N1C([C@@H](NC12CCN(CC2)C(CCC)=O)CC2=CC=CC=C2)=O | InChI=1S/C25H31N3O2.ClH/c1-2-9-23(29)27-16-14-25(15-17-27)26-22(18-20-10-5-3-6-11-20)24(30)28(25)19-21-12-7-4-8-13-21;/h3-8,10-13,22,26H,2,9,14-19H2,1H3;1H/t22-;/m0./s1
